US08053438B2
Palladium (10 mg, 0.0094 mmol, 10% wt. on activated carbon) was added to a stirred solution of 4-(3-(5,6-dihydro-2H-pyran-3-yl)pyrazin-2-yloxy)aniline (0.16 g, 0.59 mmol) in THF (3 mL). The reaction mixture was placed under a hydrogen atmosphere (balloon) and stirred at room temperature for 23 h. The reaction mixture was filtered through Celite, and the filtrate was concentrated in vacuo to give 4-(3-(tetrahydro-2H-pyran-3-yl)pyrazin-2-yloxy)aniline. [M+1]=272.1.

reactant | 4-(3-(5,6-dihydro-2H-pyran-3-yl)pyrazin-2-yloxy)aniline | 0.59 mmol, 0.16 g | O1CC(=CCC1)C=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C15H15N3O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Palladium | 0.0094 mmol, 10 mg | [Pd] | Pd
product | 4-(3-(tetrahydro-2H-pyran-3-yl)pyrazin-2-yloxy)aniline | O1CC(CCC1)C=1C(=NC=CN1)OC1=CC=C(N)C=C1 | C15H17N3O2
